US09382228B2
A suspension of triphenylphosphine (0.033 g, 0.125 mmol), K2CO3 (0.118 g, 0.856 mmol), Pd(OAc)2 (0.007 g, 0.031 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrazole (0.089 g, 0.428 mmol) and 5-((2-chloropyridin-4-yl)oxy)-6-(trifluoromethyl)pyridin-2-amine (0.062 g, 0.214 mmol) in dioxane (6 mL) and water (1.5 mL) was sparged with Ar and heated at 85° C. overnight. The mixture was cooled to RT, treated with brine, extracted with EtOAc (3×) and the combined organics were dried over Na2SO4, concentrated and purified via silica gel chromatography (MeOH/EtOAc) to afford 5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-(trifluoromethyl)pyridin-2-amine (55 mg, 77%). MS (ESI) m/z: 336.1 (M+H+).

reactant | triphenylphosphine | 0.125 mmol, 0.033 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | K2CO3 | 0.856 mmol, 0.118 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrazole | 0.428 mmol, 0.089 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | 5-((2-chloropyridin-4-yl)oxy)-6-(trifluoromethyl)pyridin-2-amine | 0.214 mmol, 0.062 g | ClC1=NC=CC(=C1)OC=1C=CC(=NC1C(F)(F)F)N | C11H7ClF3N3O
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.5 mL | O | H2O
catalyst | Pd(OAc)2 | 0.031 mmol, 0.007 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-(trifluoromethyl)pyridin-2-amine | 55 mg, 77% | CN1N=CC(=C1)C1=NC=CC(=C1)OC=1C=CC(=NC1C(F)(F)F)N | C15H12F3N5O
